US04594197
To a solution of 1.76 g of 3-benzoylacrylic acid in 30 ml of diethyl ether was added 0.8 ml of thioacetic acid, and the resulting mixture was stirred at room temperature for 5 hours. The diethyl ether was removed from the reaction mixture by evaporation under reduced pressure, and the residue was purified by silica gel column chromatography using a mixture of hexane and dichloromethane as an eluent and recrystallized from a mixture of hexane and diethyl ether to give 2.09 g of 2-acetylthio-3-benzoylpropionic acid.

reactant | 3-benzoylacrylic acid | 1.76 g | C(C1=CC=CC=C1)(=O)C=CC(=O)O | C10H8O3
reactant | thioacetic acid | 0.8 ml | C(C)(=S)O | C2H4OS
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-acetylthio-3-benzoylpropionic acid | 2.09 g | C(C)(=O)SC(C(=O)O)CC(C1=CC=CC=C1)=O | C12H12O4S
